US06395767B2
L-pyroglutamic acid ethyl ester (200 g, 1.27 mol) was dissolved in 1.2 liters of methylene chloride and treated sequentially with di-tert-butyldicarbonate (297 g, 1.36 mol) and a catalytic DMAP (1.55 g, 0.013 mol) at ambient temperature. After 6 h, the mixture was quenched with saturated brine and the organic phase was dried (Na2SO4) and filtered through a short silica gel column to give 323 g (100%) of N-Boc- L-pyroglutamic acid ethyl ester. N-Boc-L-pyroglutamic acid ethyl ester (160 g, 0.62 mol) was dissolved in 1 liter of toluene, cooled to −78° C. and treated with lithium triethylborohydride (666 mL of a 1.0 M soln in THF) and added dropwise over 90 minutes. After 3 h, 2,6-lutidine (423 mL, 3.73 mol) was added dropwise followed by DMAP (0.2 g, 0.0016 mol). To this mixture was added TFAA (157 g, 0.74 mol) and the reaction was allowed to come to ambient temperature over 2 h. The mixture was diluted with EtOAc and water and the organics were washed with 3 N HCl, water, aqueous bicarbonate and brine and dried (Na2SO4) and filtered through a silica gel plug to give 165 g of the crude 4,5-dehydroproline ethyl ester that was purified by flash column chromatography on silica gel with 1:5 ethyl acetate:hexanes to give 120 g, 75% of the olefin.

reactant | L-pyroglutamic acid ethyl ester | 1.27 mol, 200 g | C(C)OC([C@H]1NC(CC1)=O)=O | C7H11NO3
reactant | di-tert-butyldicarbonate | 1.36 mol, 297 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 1.2 liters | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.013 mol, 1.55 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Boc- L-pyroglutamic acid ethyl ester | 323 g, 100% | C(C)OC([C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C)=O | C12H19NO5
